US06914074B2
1,5-Dichloro-2-methoxy-6-(4-methoxyphenyl)naphthalene
The title compound was prepared by 1,5-dichloro-6-methoxy-2-naphthyl trifluoromethanesulfonate (0.32 g, 0.85 mmol) with 4-methoxyphenyl boronic acid (0.18 g, 1.2 mmol) according to method A to yield 0.27 g (95%) of a white solid mp 146-149° C.;1H NMR (CDCl3): δ 3.88 (3H, s), 4.07 (3H, s), 7.02 (2H, d, J=8.73 Hz), 7.41 (1H, d, J=9.52 Hz), 7.46 (2H, d, J=8.83 Hz), 7.53 (1H, d, J=8.73 Hz), 8.19 (1H, d, J=8.73 Hz), 8.36 (1H, d, J=9.12 Hz);

reactant | 1,5-dichloro-6-methoxy-2-naphthyl trifluoromethanesulfonate | 0.85 mmol, 0.32 g | FC(S(=O)(=O)OC1=C(C2=CC=C(C(=C2C=C1)Cl)OC)Cl)(F)F | C12H7Cl2F3O4S
reactant | 4-methoxyphenyl boronic acid | 1.2 mmol, 0.18 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
product | 1,5-Dichloro-2-methoxy-6-(4-methoxyphenyl)naphthalene | ClC1=C(C=CC2=C(C(=CC=C12)C1=CC=C(C=C1)OC)Cl)OC | C18H14Cl2O2
